US05484926
5-quinolinecarboxylic acid
To a solution containing 15 g (0.1 mol) of m-aminobenzoic acid, 27 g (0.13 mol) of m-nitrobenzene sulfonate and 25 g (0.4 mol) of glycerol, was added 125 g of 70% sulfuric acid. The resultant reaction mixture was refluxed for about 2.5 hours, diluted with 125 mL of water, basified to pH 9 using ammonium hydroxide, stirred overnight with 5 g of charcoal, and then filtered. The filtrate was then boiled with 5 g charcoal, filtered, and then cooled to 50° C., acidified to pH 5 with glacial acetic acid (15 mL), and filtered to provide a brown solid. This solid was boiled in 300 mL of water containing 10 mL of acetic acid and hot filtered to provide crude material. This material was purified using recrystallization from boiling acetic acid to provide 6.1 g of a pale brown solid.

reactant | m-aminobenzoic acid | 0.1 mol, 15 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | m-nitrobenzene sulfonate | 0.13 mol, 27 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | glycerol | 0.4 mol, 25 g | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 125 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | charcoal | 5 g | C | CH4
solvent | water | 125 mL | O | H2O
solvent | water | 300 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-quinolinecarboxylic acid | 6.1 g, Yield: 32% | N1=CC=CC=2C(=CC=CC12)C(=O)O | C10H7NO2
